US07482356B2
Preparation of 2-(2-chlorobenzyl)-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one:
To a solution of phenol (0.18 g, 1.00 mmol) in THF (4 mL) is added sodium hydride (0.10 g of a 60% dispersion in mineral oil, 1.60 mmol). After stirring 5 min at room temperature a solution of 2-(2-chloro-benzyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 8, (0.21 g, 0.50 mmol) in THF (5 mL) is added to the reaction mixture. After stirring 1.5 h at room temperature, the mixture is diluted with aqueous saturated NaHCO3. The aqueous phase is extracted three times with CHCl3 and the combined organic phases are washed with aqueous saturated NaHCO3, dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified over silica (5% MeOH/CHCl3) to afford 100 mg of the desired product as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 8.63 (d, J=5.4 Hz, 1H), 7.47 (t, J=7.8 Hz, 2H), 7.40 (d, J=5.4 Hz, 1H), 7.29-7.10 (m, 7H), 4.16 (t, J=6.9 Hz, 2H), 4.07 (s, 2H), 3.91 (t, J=6.9 Hz, 2H), 2.61 (dddd, J=6.9, 6.9, 6.9, 6.9 Hz, 2H); ESI+ MS: m/z (rel intensity) 418.9 (100, M++H).

reactant | phenol | 1.00 mmol, 0.18 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(2-chloro-benzyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | ClC1=C(CC2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)S(=O)(=O)C)C=CC=C1 | C18H17ClN4O3S
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(2-chlorobenzyl)-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 100 mg | ClC1=C(CC2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)OC2=CC=CC=C2)C=CC=C1 | C23H19ClN4O2
